US08222416B2
A mixture of 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (110 mg, 0.25 mmol) in ethanol (4 mL) and tetrahydrofuran (4 mL), was treated with an aqueous sodium hydroxide solution (10%, 1.5 mL) and stirred at 50° C. for 1 h. The mixture was acidified to pH 4-5 with a 2N aqueous hydrochloric acid solution, diluted with dichloromethane (150 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid (100 mg, 94%) as a white solid which was used in the next step without further purification: LC/MS m/e calcd for C21H23N3O4S [M+H]+ 414.50, observed 414.0.

reactant | 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 0.25 mmol, 110 mg | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C=2C=NC(=CC2)S(=O)(=O)C | C22H25N3O4S
reactant | sodium hydroxide | 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-[2-cyclopentyl-1-(6-methanesulfonyl-pyridin-3-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid | 100 mg, 94% | C1(CCCC1)CC(C=1C=NC(=CC1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C(=O)O)N1 | C21H23N3O4S
